US06583135B2
Preparation of 3-tert-Butyloxycarbonyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
In a 500 mL round-bottomed flask, a mixture of 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (13.59 g, 36.80 mmol), potassium hydroxide (10.32 g, 184.0 mmol), and ethylene glycol (200.0 mL) were heated at 140° C. overnight. The mixture was cooled to 0° C., then dioxane (500.0 mL) and di-tert-butyl dicarbonate (9.64 g, 44.16 mmol) were added and stirred at room temperature overnight. Dioxane was removed under reduced pressure and the resulting mixture was partitioned between chloroform and water. The aqueous layer was extracted with chloroform (2×) and the combined organic layers was dried (MgSO4) and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (silica gel, 20-30% EtOAc/hexane) to give 12.74 g (95%) of a yellow solid: mp 223-225° C.; 1H NMR (400 MHz, CDCl3) δ 7.99, 7.23-7.19, 6.92, 3.77-3.65, 3.56-3.47, 3.05-2.96; IR (drift) 3263, 1664, 1468, 1439, 1416, 1367, 1352, 1332, 1300, 1190, 1170, 1162, 1115, 769, 737 cm−1; MS (EI) m/z 364 (M+); HRMS (EI) calcd for C17H21BrN2O2: 364.0787, found: 364.0794; Anal. Calcd for C17H21BrN2O2: C, 55.90; H, 5.80; N, 7.67. Found: C, 55.93; H, 5.81; N, 7.66.

reactant | 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 36.80 mmol, 13.59 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H17BrN2O
reactant | potassium hydroxide | 184.0 mmol, 10.32 g | [OH-].[K+]
reactant | ethylene glycol | 200.0 mL | C(CO)O | C2H6O2
reactant | di-tert-butyl dicarbonate | 44.16 mmol, 9.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 500.0 mL | O1CCOCC1 | C4H8O2
product | 3-tert-Butyloxycarbonyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 12.74 g, 95% | C(C)(C)(C)OC(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C17H21BrN2O2
